US07981903B2
A solution of N-(4-methyl-3-nitrophenyl)-2-(1-pyrrolidinyl)acetamide (0.86 g, 3.27 mmol) in absolute ethanol (50 mL) was hydrogenated with 10% Pd/C (˜0.200 g, Lancaster) at 50 psi overnight. The catalyst was removed by vacuum filtration through a celite pad, rinsed with methanol, and the filtrate was concentrated under reduced pressure to give N-(3-amino-4-methylphenyl)-2-(1-pyrrolidinyl)acetamide (0.72 g, 95%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.70 (dt, J=6.55, 3.23 Hz, 4 H) 1.95 (s, 3 H) 2.53 (t, J=5.86 Hz, 4 H) 3.13 (s, 2 H) 4,78 (s, 2 H) 6.62 (dd, J=7.87, 2.01 Hz, 1 H) 6.76 (d, J=8.06 Hz, 1 H) 6.93 (d, J=2.01 Hz, 1 H) 9.23 (s, 1 H). ESIMS (M+H)+=234.

reactant | N-(4-methyl-3-nitrophenyl)-2-(1-pyrrolidinyl)acetamide | 3.27 mmol, 0.86 g | CC1=C(C=C(C=C1)NC(CN1CCCC1)=O)[N+](=O)[O-] | C13H17N3O3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | ˜0.200 g | [Pd] | Pd
product | N-(3-amino-4-methylphenyl)-2-(1-pyrrolidinyl)acetamide | 0.72 g, 95% | NC=1C=C(C=CC1C)NC(CN1CCCC1)=O | C13H19N3O
